US06288041B1
Synthetic Example BB13: Synthesis of 3α-N-(N-tert-butyloxycarbonyl-L-asparagyl)aminocholestane
By using N-tert-butyloxycarbonyl-L-asparagine (464 mg, 2.00 mmol) and 3α-aminocholestane (777 mg, 2.00 mmol), the title compound was obtained in the same manner as in Synthetic Example BB1 (670 mg, yield; 56%).

reactant | N-tert-butyloxycarbonyl-L-asparagine | 2.00 mmol, 464 mg | C(C)(C)(C)OC(=O)N[C@@H](CC(N)=O)C(=O)O | C9H16N2O5
reactant | 3α-aminocholestane | 2.00 mmol, 777 mg | N[C@H]1CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H49N
product | 3α-N-(N-tert-butyloxycarbonyl-L-asparagyl)aminocholestane | yield; 56% | C(C)(C)(C)OC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]1CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C36H63N3O4
